US05998424
Ethyl N-(4-methoxyphenyl)glycine
To a solution of 15.00 g (122 mmol) of p-anisidine in 100 mL of DMF under N2 was added 23.50 g (141 mmol) of ethyl bromoacetate and 14.95 g (141 mmol) anhydrous sodium carbonate. The mixture was heated to 70° C. for 16 hours and then cooled to room temperature. Water (500 mL) was added and the mixture stirred vigorously until a precipitate formed. The solid was collected and washed with 100 mL water, then dried in vacuo to give 19.59 g (88%) of the desired compound as a grey solid. 1H NMR (CDCl3) δ6.81 (d, J=8.8, 2H); 6.579 (d, J=8.8, 2H); 4.24 (q, J=7.0, 2H); 4.10 (s, 1H); 3.86 (s, 2H); 3.75 (s, 3H); 1.28 (t, J=7.0, 3H).

reactant | p-anisidine | 122 mmol, 15.00 g | COC1=CC=C(C=C1)N | C7H9NO
reactant | ethyl bromoacetate | 141 mmol, 23.50 g | BrCC(=O)OCC | C4H7BrO2
reactant | sodium carbonate | 141 mmol, 14.95 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | Water | 500 mL | O | H2O
reactant | DMF | 100 mL | CN(C)C=O | C3H7NO
product | Ethyl N-(4-methoxyphenyl)glycine | 19.59 g, 88% | C(C)N(CC(=O)O)C1=CC=C(C=C1)OC | C11H15NO3
